US06686347B2
27d) 1-Chloro-4-[2-(6-methylpyridin-3-yl)ethyl]phthalazine
Under N2-atmosphere, 217 mg (0.818 mmol) 4-[2-(6-methylpyridin-3-yl)ethyl]phthalazin-1(2H)-one in 3.3 ml acetonitrile is mixed with 187 μl (2.04 mmol) phosphoryl chloride and 0.41 ml 4 N HCl in dioxane and stirred for 9 h at 60° C. After cooling to RT, 2.6 ml H2O, followed by a solution of 0.5 ml sat. NH3 and 5 ml H2O is added. Immediate extraction with 3 portions of EtOAc, washing of the organic layers with water and brine, drying (Na2SO4) and evaporation yield the title compound; FAB-MS (M+H)+=284.

reactant | 4-[2-(6-methylpyridin-3-yl)ethyl]phthalazin-1(2H)-one | 0.818 mmol, 217 mg | CC1=CC=C(C=N1)CCC1=NNC(C2=CC=CC=C12)=O | C16H15N3O
reactant | phosphoryl chloride | 2.04 mmol, 187 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4 N, 0.41 ml | Cl | ClH
reactant | NH3 | 0.5 ml | N | H3N
solvent | acetonitrile | 3.3 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 5 ml | O | H2O
solvent | H2O | 2.6 ml | O | H2O
product | 1-Chloro-4-[2-(6-methylpyridin-3-yl)ethyl]phthalazine | ClC1=NN=C(C2=CC=CC=C12)CCC=1C=NC(=CC1)C | C16H14ClN3
